Laboratório 2
* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents

* supply voltage
Va 0 3 5.10355691205
* supply current
Id 7 5 1.0126488524m

*resistors
Rr1 0 1 1.03835624717k
Rr2 2 1 2.03980117275k
Rr3 1 4 3.02589288375k
Rr4 4 3 4.09496586064k
Rr5 4 5 3.11837790188k
Rr6 3 8 2.06517135248k
Rr7 6 7 1.01138577854k

*dummy voltage source
Vdu 8 6 0

*dependent voltage source
Hvc 4 7 Vdu 8.24825537187k

*dependent current source
Gib 5 2 (1,4) 7.20092310025m

.control

op

echo "********************************************"
echo  "Operating point"
echo "********************************************"

echo "op_TAB"
print all
echo "op_END"

quit
.endc

.end

