Laboratório 2
* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents

* supply voltage
Va 1 0 5.04499704365
* capacitor
*Cd 6 8 1.01848690215u

*resistors
Rr1 1 2 1.00119192001k
Rr2 3 2 2.05601051164k
Rr3 2 5 3.14238437911k
Rr4 5 0 4.10348141952k
Rr5 5 6 3.04851993814k
Rr6 9 7 2.04484641193k
Rr7 7 8 1.00542115789k

*dummy voltage source
Vdu 0 9 0

*dependent voltage source
Hvc 5 8 Vdu 8.08788113416k

*dependent current source
Gib 6 3 (2,5) 7.29043495344m

.control

op

echo "********************************************"
echo  "Operating point"
echo "********************************************"

echo "op_TAB"
print all
echo "op_END"

quit
.endc

.end

